US04946837
7β-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2(Z)methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)- 3-cephem-4-carboxylic acid
To 50 ml of trifluoroacetic acid is added 13 g of 7β-[2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid with stirring under ice-cooling. The cooling bath is removed and stirring is continued for 30 minutes. Trifluoroacetic acid is evaporated off under reduced pressure. To the residue is added 100 ml of ethyl acetate and the ethyl acetate is removed under reduced pressure. To the residue is added 100 ml of diethyl ether. Trituration and filtration of the resulting powder give 10 g of the above-identified compound.

reactant | 7β-[2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 13 g | C(C)(C)(C)OC(=O)NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OC | C22H26N6O10S2
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7β-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2(Z)methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)- 3-cephem-4-carboxylic acid | 10 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OC | C17H18N6O8S2
